US07435837B2
Treatment of (±)-(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (0.50 g, 1.305 mmol) with 4-(trifluoromethyl)phenylboronic acid (0.372 g, 1.96 mmol), dichlorobis(tri-o-tolylphosphine)-palladium(II) (0.051 g, 0.065 mmol), and potassium carbonate (0.45 g, 3.26 mmol) generally according to the procedure described for Intermediate 37 provided 0.435 g (74%) of (±)-{7-[4-(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran-2-yl}methyl 4-methylbenzenesulfonate as a light yellow solid. mp 116-118° C.; Anal. calcd. for C23H19F3O4S: C, 61.6; H, 4.27. Found: C, 61.37; H, 4.36.

reactant | (±)-(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 1.305 mmol, 0.50 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2Br | C16H15BrO4S
reactant | 4-(trifluoromethyl)phenylboronic acid | 1.96 mmol, 0.372 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | potassium carbonate | 3.26 mmol, 0.45 g | C([O-])([O-])=O.[K+].[K+]
catalyst | dichlorobis(tri-o-tolylphosphine)-palladium(II) | 0.065 mmol, 0.051 g | CC1=C([P](C2=C(C)C=CC=C2)([Pd]([P](C3=C(C)C=CC=C3)(C4=C(C)C=CC=C4)C(C=CC=C5)=C5C)(Cl)Cl)C6=C(C)C=CC=C6)C=CC=C1
product | (±)-{7-[4-(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran-2-yl}methyl 4-methylbenzenesulfonate | 0.435 g, 74% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=CC=C(C=C2)C(F)(F)F | C23H19F3O4S
